US06809199B2
A mixture of 2,6-dibromo-4-nitrotoluene (3.83 g, 1 eq.), N-bromosuccinimide (3.23 g, 1.4 eq.) and dibenzoylperoxide (315 mg, 0.1 eq.) in CCl4 was degassed with argon. The mixture was brought to reflux and azobisisobutyronitrile (213 mg, 0.1 eq.) was added. The mixture was maintained at reflux for 6 hours. The reaction was cooled to room temperature, concentrated and purified to give 1-Bromomethyl-2,6-dibromo-4nitrobenzene. 1H NMR (500 MHz, CDCl3) δ CHCl3: 4.81 (2H, s), 8.41(2H, s).

reactant | 2,6-dibromo-4-nitrotoluene | 3.83 g, 1 eq. | BrC1=C(C(=CC(=C1)[N+](=O)[O-])Br)C | C7H5Br2NO2
reactant | N-bromosuccinimide | 3.23 g, 1.4 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoylperoxide | 315 mg, 0.1 eq. | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | azobisisobutyronitrile | 213 mg, 0.1 eq. | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Bromomethyl-2,6-dibromo-4nitrobenzene | BrCC1=C(C=C(C=C1Br)[N+](=O)[O-])Br | C7H4Br3NO2
